US05328911
2-hydroxymethyl-3-[(2'-methoxycarbonylbiphenyl-4-yl)methyl]-7-methyl-3H-imidazo[4.5-b]pyridine
50 ml (50 retool) of a dichloromethane solution of 1M boron tribromide was added little by little dropwise to 100 ml of a dichloromethane solution of 3.3 g (8.2 mmol) of 3-[(2'-methoxycarbonyl-biphenyl-4-yl)methyl]-2-methoxymethyl-7-methyl-3H-imidazo[4.5-b]pyridine, while stirred and cooled with ice. The mixture was further stirred at a room temperature for 12 hours. Methanol was added dropwise to the product mixture, while stirred and cooled with ice, and the solvent was distilled out at a reduced pressure. The residue was mixed with water and neutralized with sodium bicarbonate. It was weakly acidified with acetic acid and decanted to remove the water. Methanol was added to the residue and distilled out at a reduced pressure. It was re-crystallized from ethanol-isopropylether to obtain 2.4 g of the intended compound.

reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | 3-[(2'-methoxycarbonyl-biphenyl-4-yl)methyl]-2-methoxymethyl-7-methyl-3H-imidazo[4.5-b]pyridine | 8.2 mmol, 3.3 g | COC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC=2C1=NC=CC2C)COC | C24H23N3O3
solvent | Methanol | CO | CH4O
product | 2-hydroxymethyl-3-[(2'-methoxycarbonylbiphenyl-4-yl)methyl]-7-methyl-3H-imidazo[4.5-b]pyridine | 2.4 g | OCC1=NC=2C(=NC=CC2C)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC | C23H21N3O3
